US07595345B2
A. 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester
4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester (2.50 g, 7.47 mmol), lithium hexamethyldisilazide (8.22 ml, 8.22 mmol, 1.0 M in THF) and 3-pentanone (870 μL, 8.22 mmol) are reacted and purified analogous to Example 1H to give the title compound (2.22 g, 71%).

reactant | 4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 7.47 mmol, 2.50 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#C)C)CC)C)=O | C23H26O2
reactant | lithium hexamethyldisilazide | 8.22 mmol, 1.0 M, 8.22 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-pentanone | 8.22 mmol, 870 μL | CCC(CC)=O | C5H10O
product | 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester | 2.22 g, 71% | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(CC)(O)CC)C)CC)C)=O | C28H36O3
